US06852751B2
4,4-Difluoro-4-(4′-methoxy-biphenyl-4-yl)-butyric Acid.
4,4-Difluoro-4-(4′-methoxy-biphenyl-4-yl)-but-2-enoic acid ethyl ester. A solution of benzyl (triphenylphosphoranylidene)acetate (320 mg, 0.779 mmol) and 2,2-difluoro-2-(4′-methoxy-4-biphenyl)acetaldehyde (198 mg, 0.755 mmol) in toluene (4 mL) is heated to 90° C. with stirring for 2 hours. The reaction is cooled to room temperature and concentrated under reduced pressure. The crude product is purified by column chromatography (silica gel, 20% EtOAc/hexanes) to give the desired product as a pale yellow oil.

reactant | 4,4-Difluoro-4-(4′-methoxy-biphenyl-4-yl)-but-2-enoic acid ethyl ester | C(C)OC(C=CC(C1=CC=C(C=C1)C1=CC=C(C=C1)OC)(F)F)=O | C19H18F2O3
reactant | benzyl (triphenylphosphoranylidene)acetate | 0.779 mmol, 320 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OCC1=CC=CC=C1 | C27H23O2P
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 4,4-Difluoro-4-(4′-methoxy-biphenyl-4-yl)-butyric Acid | FC(CCC(=O)O)(C1=CC=C(C=C1)C1=CC=C(C=C1)OC)F | C17H16F2O3
